US07144884B2
1a, 1-[2-(2-Trifluoromethylphenylsulfanyl)phenyl]piperazine
To a solution of 2-trifluoromethylthiophenol (1.75 g, 9.8 mmol) in a 1:1 mixture of tetrahydrofuran/dimethylformamide (30 mL), sodium hydride (7.4 mmol, 60% in mineral oil) was carefully added at room temperature (Caution: Generation of hydrogen). The mixture was stirred for an additional 30 min after the generation of hydrogen had ceased. Subsequently, 4-({4-[η6-(2-chloro-phenyl)-η5-cyclopentadienyliron(II)]piperazin-1-yl}carbonyloxymethyl)phenoxymethyl polystyrene hexafluorophosphate (3.5 g, 2.45 mmol) was added and the mixture was stirred at 55° C. for 12 h. After cooling to room temperature, the resin was filtered off and washed with tetrahydrofuran (2×50 mL), tetrahydrofuran/water (1:1) (2×50 mL), N,N-dimethylformamide (2×50 mL), water (2×50 mL), methanol (3×50 mL), tetrahydrofuran (3×50 mL), and subsequently with methanol and tetrahydrofuran (each 50 mL, 5 cycles). Finally, the resin was washed with dichloromethane (3×50 mL) and dried in vacuo (25° C., 12 h) to yield a dark orange resin. The thus obtained resin and a 0.5 M solution of 1,10-phenanthroline in 3:1 mixture of pyridine/water (20 mL) was placed in light-transparent reactor tube. The suspension was agitated by rotation under irradiation with visible light for 12 h. The resin was filtered and washed with methanol (2×25 mL), water (2×25 mL) and tetrahydrofuran (3×25 mL) until the washing solutions were colourless (approx. 5 cycles) and the irradiation procedure was repeated until decomplexation was complete (approx. 5 cycles). After the decomplexation was completed, the resin was washed with dichlormethane (3×25 mL) and dried in vacuo (25° C., 12 h) to obtain a light brown resin. 100 mg (77 μmol) of the thus obtained resin were suspended in a 1:1 mixture of trifluoroacetic acid and dichlormethane (2 mL) and stirred at room temperature for 2 h. The resin was filtered off and washed with methanol (1×0.5 mL) and dichloromethane (1×0.5 mL). The filtrates were collected and the volatile solvents evaporated in vacuo. The crude product was purified by preparative LC-MS and subsequently by ion-exchange chromatography. LC/MS (m/z) 339 (MH+); RT=2.39; purity (UV, ELSD): 92%, 100%; overall yield: 1 mg (4%).

reactant | 2-trifluoromethylthiophenol | 9.8 mmol, 1.75 g | FC(C1=C(C=CC=C1)S)(F)F | C7H5F3S
reactant | sodium hydride | 7.4 mmol | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1,10-phenanthroline | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | pyridine water | 20 mL | N1=CC=CC=C1.O
solvent | dichlormethane | 2 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran dimethylformamide | 30 mL | O1CCCC1.CN(C=O)C
product | 1-[2-(2-Trifluoromethylphenylsulfanyl)phenyl]piperazine | FC(C1=C(C=CC=C1)SC1=C(C=CC=C1)N1CCNCC1)(F)F | C17H17F3N2S
